US08334301B2
4-(2-fluoropyridin-3-yl)-5-[(pyridin-2-yl)thio]thiophene-2-carbaldehyde
A suspension of 5-bromo-4-(2-fluoropyridin-3-yl)thiophene-2-carbaldehyde (297 mg), potassium carbonate (171 mg) and 2-mercaptopyridine (129 mg) in N,N-dimethylformamide (5 mL) was stirred at room temperature for 2 days. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was washed with diisopropyl ether to give the title compound as a pale-yellow solid (yield 281 mg, yield 85%).

reactant | 5-bromo-4-(2-fluoropyridin-3-yl)thiophene-2-carbaldehyde | 297 mg | BrC1=C(C=C(S1)C=O)C=1C(=NC=CC1)F | C10H5BrFNOS
reactant | potassium carbonate | 171 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercaptopyridine | 129 mg | SC1=NC=CC=C1 | C5H5NS
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-(2-fluoropyridin-3-yl)-5-[(pyridin-2-yl)thio]thiophene-2-carbaldehyde | yield 281 mg, yield 85% | FC1=NC=CC=C1C=1C=C(SC1SC1=NC=CC=C1)C=O | C15H9FN2OS2
